US05536702
Preparation of diethyl 5-[3-(dimethylamino)acryloyl]-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate
Diethyl 5-acetyl-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate, (25 g, 0,089 mol) and N,N-dimethylformamide dineopentyl acetal (50 mL, 98%, 40.62 g, 0.176 mol) are heated for 30 minutes at 80°-100° C. After cooling to room temperature, the product is obtained as a precipitate and is filtered and washed with hexane to yield 23.4 g, 70% yield, of solid which is recrystallized from isopropanol to give a pure product, melting point 182°-183° C.

reactant | Diethyl 5-acetyl-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate | 0,089 mol, 25 g | C(C)(=O)C1=CC(=C(NC1=O)C(=O)OCC)C(=O)OCC | C13H15NO6
reactant | N,N-dimethylformamide dineopentyl acetal | 0.176 mol, 50 mL, 40.62 g | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
product | diethyl 5-[3-(dimethylamino)acryloyl]-1,6-dihydro-6-oxo-2,3-pyridinedicarboxylate | 70% yield | CN(C=CC(=O)C1=CC(=C(NC1=O)C(=O)OCC)C(=O)OCC)C | C16H20N2O6
